US09085583B2
To a solution of 1-benzoyl-2-methyl-1H-indole-3-carboxylic acid (125 mg, 0.45 mmol), 1-hydroxybenzotriozole (122 mg, 0.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (173 mg, 0.9 mmol), triethylamine (0.4 mL) in dichloromethane (20 mL) was added 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (137 mg, 0.9 mmol). The reaction mixture was stirred at 20° C. for 13 hours. The mixture was washed with water (20 mL×2). The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give the residue, which was purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to give 1-benzoyl-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide as a white solid (50 mg, 53%). LRMS (M+H+) m/z: calcd 413.17. found 413. HPLC Purity (214 nm): 96%. 1H NMR (300 MHz, d6-DMSO): δ 11.57 (s, 1H), 8.13 (q, J=5.1 Hz, 1H), 7.74-7.70 (m, 4H), 7.60-7.58 (m, 2H), 7.20-7.00 (m, 3H), 5.88 (s, 1H), 4.32 (d, J=5.1 Hz, 2H), 2.37 (s, 3H), 2.267 (s, 3H), 2.12 (s, 3H).

reactant | 1-benzoyl-2-methyl-1H-indole-3-carboxylic acid | 0.45 mmol, 125 mg | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C17H13NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.9 mmol, 173 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.9 mmol, 137 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-benzoyl-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide | 50 mg, 53% | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC=CC=C12)C(=O)NCC=1C(=NC(=CC1C)C)O)C | C25H23N3O3
